US07868014B2
(S)-(2,4-Dichlorobenzyl)-pyrrolidin-3-ylamine
Stir (S)-3-(2,4-dichlorobenzylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester (1.08 g, 3.13 mmol) in 20% trifluoroacetic acid in dichloromethane (10 mL) overnight. Concentrate and dissolve the residue in methanol (2 mL) and deposit onto an SCX-cartridge; eluting with methanol, then with 2 N ammonia in methanol. Concentrate the ammonia washing to give the title compound (630 mg, 82%).

reactant | (S)-3-(2,4-dichlorobenzylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester | 3.13 mmol, 1.08 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)NCC1=C(C=C(C=C1)Cl)Cl | C16H22Cl2N2O2
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (S)-(2,4-Dichlorobenzyl)-pyrrolidin-3-ylamine | 630 mg, 82% | ClC1=C(CN[C@@H]2CNCC2)C=CC(=C1)Cl | C11H14Cl2N2
